US09023864B2
{7-[4-(4-Methanesulfonylamino-butyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid
The title compound was prepared using procedures described in EXAMPLE 1 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and N-hex-5-yn-1-ylmethanesulfonamide. MS (+ESI) m/z: 446.2.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | N-hex-5-yn-1-ylmethanesulfonamide | C(CCCC#C)NS(=O)(=O)C | C7H13NO2S
product | {7-[4-(4-Methanesulfonylamino-butyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid | CS(=O)(=O)NCCCCC=1N=NN(C1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C21H27N5O4S
